US06638929B2
To a solution of n-butyllithium (1.8 mL of a 2.5 M solution in hexane, 4.5 mmol) in 5 mL of tetrahydrofuran is added a solution of acetonitrile (1.0 mL, 19.1 mmol) in 5 mL of tetrahydrofuran. The reaction mixture is stirred at −78° C. for 15 min. A solution of 5-(benzyloxy)-1-bromo-2-(bromomethyl)-4-methoxybenzene (0.7 g, 1.8 mmol) in 3mL of tetrahydrofuran is added and stirring is continued for 1 hour at −78° C. The reaction is quenched by the addition of 15 mL of water and the mixture is allowed to warm to room temperature. The mixture is extracted with ethyl acetate and the organic layers combined, then dried with sodium sulfate. After reducing in vacuo, the crude product is purified by flash chromatography using a gradient of 95:5 to 4:1 hexanes/ethyl acetate as an eluent. The clean fractions are combined, reduced in vacuo and dried to yield 0.343 g of 3-(4-benzyloxy-2-bromo-5-methoxyphenyl)-propionitrile as a white solid, mp 52-53° C.

reactant | n-butyllithium | C(CCC)[Li]
reactant | acetonitrile | 19.1 mmol, 1.0 mL | C(C)#N | C2H3N
reactant | 5-(benzyloxy)-1-bromo-2-(bromomethyl)-4-methoxybenzene | 1.8 mmol, 0.7 g | C(C1=CC=CC=C1)OC=1C(=CC(=C(C1)Br)CBr)OC | C15H14Br2O2
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3mL | O1CCCC1 | C4H8O
product | 3-(4-benzyloxy-2-bromo-5-methoxyphenyl)-propionitrile | 0.343 g | C(C1=CC=CC=C1)OC1=CC(=C(C=C1OC)CCC#N)Br | C17H16BrNO2
